US04305868
N,N'-bis[2-hydroxyethyl]terephthalamide
A mixture of 194 g (1.0 mole) of dimethyl terephthalate, 150 ml (2.46 mole) ethanolamine and 300 ml ethanol was refluxed for 7 hours. On cooling the title product separated. It was filtered and then washed with ethanol. After drying, it melted at 227°-229° C.

reactant | dimethyl terephthalate | 1.0 mole, 194 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | ethanolamine | 2.46 mole, 150 ml | C(O)CN | C2H7NO
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N,N'-bis[2-hydroxyethyl]terephthalamide | OCCNC(C1=CC=C(C(=O)NCCO)C=C1)=O | C12H16N2O4
